US07645784B2
A solution of 2-chloro-N,N-dimethyl-3-nitrobenzenesulfonamide (170 mg, 0.642 mmol) and ethanolamine (196 mg, 3.21 mmol) in ethanol (6 mL) was heated at reflux for 4 h. The solvent was removed in vacuo, and the residue was purified by column chromatography using heptane/ethyl acetate, 1:1 as an eluent affording 2-[(2-hydroxyethyl)amino]-N,N-dimethyl-3-nitrobenzenesulfonamide, 161 mg (87%). MS (ESI) mm/z 288 [M−H]. 1H NMR (400 MHz, CDCl3) δ ppm 1.92 (t, J=5.6 Hz, 1H), 2.83 (s, 6 H), 3.10-3.06 (m, 2H), 3.84-3.80 (m, 2H), 6.83 (t, J=8.0 Hz, 1H), 6.87 (broad s, 1H), 7.91-7.87 (m, 2H).

reactant | 2-chloro-N,N-dimethyl-3-nitrobenzenesulfonamide | 0.642 mmol, 170 mg | ClC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(C)C | C8H9ClN2O4S
reactant | ethanolamine | 3.21 mmol, 196 mg | C(O)CN | C2H7NO
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 2-[(2-hydroxyethyl)amino]-N,N-dimethyl-3-nitrobenzenesulfonamide | OCCNC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(C)C | C10H15N3O5S
